US06399627B1
To a solution of (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4-methoxybut-2-enamide (150 mg, 0.298 mmol) in 10 ml 1:1 ethyl acetate:anhydrous methanol cooled to −78° C. was bubbled HCl gas until saturation was achieved. Reaction was allowed to warm to room temperature and stirred overnight. The reaction was then concentrated in vacuo and dried under hi vacuum. The dried methyl imidate residue was dissolved in 5 ml anhydrous methanol to which ammonium acetate (77 mg, 1 mmol) was added, and the reaction heated to reflux for 2 hours. The reaction was concentrated, treated with trifluoroacetic acid (10 ml) for 2 hrs, concentrated and purified on a 2×25 cm Vydac C18 HPLC column to give 3-((1E)-1-(methoxymethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)benzenecarboxamidine (34 mg, (25%) as a fluffy off-white powder after lyophilization. ES-MS (M+H+): 465.15

reactant | (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4-methoxybut-2-enamide | 0.298 mmol, 150 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(\C=C(\COC)/C1=CC(=CC=C1)C#N)=O | C28H29N3O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium acetate | 1 mmol, 77 mg | C(C)(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-((1E)-1-(methoxymethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)benzenecarboxamidine | COC\C(=C\C(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)=O)\C=1C=C(C=CC1)C(=N)N | C24H24N4O4S
